US05221761
Tetraethylammonium (1-Pyrrolyl)Triphenylborate
A mixtue of sodium hydride (0.45 g, 19 mmole) and triphenylboron (3.6 g, 15 mmole) in tetrahydrofuran (100 ml) was slowly added to a stirred solution of pyrrole (1.01 g, 15 mmole) in anhydrous tetrahydrofuran. The mixture was stirred for five hours under nitrogen at room temperature, and the resulting dark solution was filtered through filter paper and diluted with an equal amount of water. An excess of tetraethylammonium chloride solution was added slowly and the precipitate which formed was collected, dissolved in acetone and purified by addition of the acetone solution to water. The product tetraethylammonium (1-pyrrole)triphenylborate was collected (4.52 g, 72%).

reactant | sodium hydride | 19 mmole, 0.45 g | [H-].[Na+]
reactant | triphenylboron | 15 mmole, 3.6 g | C1(=CC=CC=C1)B(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15B
reactant | pyrrole | 15 mmole, 1.01 g | N1C=CC=C1 | C4H5N
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Tetraethylammonium (1-Pyrrolyl)Triphenylborate | N1(C=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)[N+](CC)(CC)CC | InChI=1S/C22H19BN.C8H20N/c1-4-12-20(13-5-1)23(24-18-10-11-19-24,21-14-6-2-7-15-21)22-16-8-3-9-17-22;1-5-9(6-2,7-3)8-4/h1-19H;5-8H2,1-4H3/q-1;+1
